* C:\Users\andre\OneDrive\Documents\LTspiceXVII\Multiplier_Circuit_(4_Quadrant)_For_Use_In_Telecommunications_Phase_Locked_Loop(USING_METHOD_FROM_UNBUFFERED_CMOS_OPAMP_19TH_SEP_2026.asc
M1 Vop V1p N001 N001 NMOS
M2 Vom V1m N001 N001 NMOS
M3 Vom V1p N002 N002 NMOS
M4 N001 V2p N003 N003 NMOS
M5 N002 V2m N003 N003 NMOS
R1 VDD Vom 10k
R2 VDD Vop 10k
I1 N003 0 50µ
M6 Vop V1m N002 N002 NMOS
Vcm1 N006 0 0V
Vcm2 N007 0 0V
Vps1 VDD 0 15V
Vcm3 N004 0 0V
Vcm4 N005 0 0V
EV1 V1p N006 VD1 0 0.5V
EV2 V1m N007 VD1 0 -0.5V
EV3 V2p N004 VD2 0 0.5V
EV4 V2m N005 VD2 0 -0.5V
Vd1 VD1 0 SINE(0V 1V 1k)
Vd2 VD2 0 PULSE(1V 0 0 0 0 4.25ms 8.5ms)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\andre\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
* l=1u w=0.25u
* l=1u w=0.25u
* l=1u w=0.25u
* l=1u w=0.25u
.model NMOS NMOS(kp=200u Vt0=0.7 W=0.25u L=1u)
* Multiplier Circuti ( Four Quadrant) For Use In Telecommunications Engineering Phase Locked Loops (PLLs)\nUSING METHOD FROM PRINTED SCHEMATIC 'CMOS 2 STAGE OPAMP UNBUFFERED OP AMP DESIGN SUMMARY\nAndrew Miingi\nSunday 20th September 2026
.tran 0 20ms 0 2ms
;op
* l=1u w=0.25u
* l=1u w=0.25u
* Note:\nV1p and V1m are sine waves (INPUT DATA)\nV2p and V2m are square waves ( pulses) (FROM VOLTAGE CONTROllED OSCILLATOR)
* --- Operating Point ---\n \nV(vop):          14.75           voltage\nV(v1p):          0               voltage\nV(n001):         -1.53435        voltage\nV(vom):          14.75           voltage\nV(v1m):          0               voltage\nV(n002):         -1.25123        voltage\nV(v2p):          0.5             voltage\nV(n003):         -1.98123        voltage\nV(v2m):          -0.5            voltage\nV(vdd):          15              voltage\nV(n006):         0               voltage\nV(n007):         0               voltage\nV(n004):         0               voltage\nV(n005):         0               voltage\nV(vd1):          0               voltage\nV(vd2):          1               voltage\nId(M3):          7.59632e-006    device_current\nIg(M3):          0               device_current\nIb(M3):          -1.60112e-011   device_current\nIs(M3):          -7.5963e-006    device_current\nId(M6):          1.51926e-005    device_current\nIg(M6):          0               device_current\nIb(M6):          -7.40007e-013   device_current\nIs(M6):          -1.51926e-005   device_current\nId(M5):          3.48074e-005    device_current\nIg(M5):          0               device_current\nIb(M5):          -4.56881e-013   device_current\nIs(M5):          -3.48074e-005   device_current\nId(M4):          7.59632e-006    device_current\nIg(M4):          0               device_current\nIb(M4):          -1.60112e-011   device_current\nIs(M4):          -7.5963e-006    device_current\nId(M2):          1.74037e-005    device_current\nIg(M2):          0               device_current\nIb(M2):          -1.62944e-011   device_current\nIs(M2):          -1.74037e-005   device_current\nId(M1):          1.74037e-005    device_current\nIg(M1):          0               device_current\nIb(M1):          -1.62944e-011   device_current\nIs(M1):          -1.74037e-005   device_current\nI(I1):           5e-005          device_current\nI(R2):           2.5e-005        device_current\nI(R1):           2.5e-005        device_current\nI(Ev4):          0               device_current\nI(Ev3):          0               device_current\nI(Ev2):          0               device_current\nI(Ev1):          0               device_current\nI(Vd2):          0               device_current\nI(Vd1):          0               device_current\nI(Vcm9):         0               device_current\nI(Vcm7):         0               device_current\nI(Vps1):         -5e-005         device_current\nI(Vcm4):         0               device_current\nI(Vcm3):         0               device_current
.backanno
.end
